US09340555B2
To a stirred solution of 3-benzyloxy benzoic acid (1.00 g, 4.38 mmol) in 20 ml of anhydrous DMF were added HATU (1.83 g, 4.82 mmol) and DIPEA (1.7 ml, 9.6 mmol). The mixture was stirred at room temperature for 10 minutes, followed by addition of 2-fluoro-5-methylaniline (657 mg, 5.25 mmol). The mixture was heated at 66° C. for 16 hours, cooled to room temperature, and partitioned between EtOAc (100 ml) and 0.5M HCl (200 ml). The organic phase was washed with 0.5M HCl (2×50 ml), saturated NaHCO3 (50 ml) and brine (50 ml), dried over Na2SO4, and evaporated to dryness to afford 3-(benzyloxy)-N-(2-fluoro-5-methylphenyl)benzamide as light brown solid. Yield: 1.5 g, 100%.

reactant | 3-benzyloxy benzoic acid | 4.38 mmol, 1.00 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1 | C14H12O3
reactant | HATU | 4.82 mmol, 1.83 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 9.6 mmol, 1.7 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-fluoro-5-methylaniline | 5.25 mmol, 657 mg | FC1=C(N)C=C(C=C1)C | C7H8FN
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-(benzyloxy)-N-(2-fluoro-5-methylphenyl)benzamide | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=C(C=CC(=C2)C)F)C=CC1 | C21H18FNO2
